US07598423B2
Synthesis of (S)-1-[2-hydroxy-4-(4-{hydroxy-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzylsulfanyl)-3-propyl-phenyl]-ethanone
Add sodium azide (66 mg, 0.25 mmol) and zinc bromide (131 mg, 0.50 mmol) to a solution of (S)-3-{[4-(4-Acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-phenyl]-hydroxy-methyl}-benzonitrile (110 mg, 0.25 mmol) in N-methylpyrrolidinone (2.0 ml). Heat the mixture at 140° C. for 12 hours, then cool to room temperature and stir for 18 hours. Pour the mixture into water (25 ml) and stir the solid suspension for 20 minutes. Filter and wash the filtered solid with water. Dissolve the solid in a 1N HCl (25 ml) and ethyl acetate (20 ml) mixture. Extract the aqueous layer with ethyl acetate (25 ml), combine the organic extracts, then wash with water, brine, dry over sodium sulfate and concentrate. Purify the crude product via reverse phase HPLC using a gradient of 90:10 to 20:80 (water/0.1% TFA):acetonitrile as eluent to give the title compound (37 mg, 31%). MS (m/z) 473 (M−H). 1H NMR (400 MHz, DMSO-d6) 12.83 (s, 1H), 8.13-8.11 (m, 1H), 7.89-7.86 (m, 1H), 7.72 (d, 1H), 7.59-7.51 (m, 2H), 7.41-7.37 (m, 4H), 6.96 (d, 1H), 5.60 (s, 1H), 4.30 (s, 2H), 2.65-2.60 (m, 5H), 1.45 (sextet, 2H), 0.90 (t, 3H).

reactant | sodium azide | 0.25 mmol, 66 mg | [N-]=[N+]=[N-].[Na+]
reactant | (S)-3-{[4-(4-Acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-phenyl]-hydroxy-methyl}-benzonitrile | 0.25 mmol, 110 mg | C(C)(=O)C1=C(C(=C(C=C1)SCC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)O)CCC)O | C26H25NO3S
reactant | water | 25 ml | O | H2O
solvent | N-methylpyrrolidinone | 2.0 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc bromide | 0.50 mmol, 131 mg | [Br-].[Zn+2].[Br-]
product | (S)-1-[2-hydroxy-4-(4-{hydroxy-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzylsulfanyl)-3-propyl-phenyl]-ethanone | 37 mg, 31% | OC1=C(C=CC(=C1CCC)SCC1=CC=C(C=C1)[C@@H](C1=CC(=CC=C1)C1=NN=NN1)O)C(C)=O | C26H26N4O3S
